US05302718
4-Ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide
4-(2-Bromoethyl)-N-(3-methyl-2-pyridinyl)benzenesulfonamide (183 g, 0.5 mol) and potassium hydroxide (120 g , 1.83 mol) and hydroquinone (1 g) in ethanol (2 l) was refluxed for 1 h. 5 l water was added and the solution acidified with acetic acid. The precipitated product was collected by filtration, washed with water and dried. Yield 137 g (quantitative).

reactant | 4-(2-Bromoethyl)-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 0.5 mol, 183 g | BrCCC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H15BrN2O2S
reactant | potassium hydroxide | 1.83 mol, 120 g | [OH-].[K+]
reactant | hydroquinone | 1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | water | 5 l | O | H2O
solvent | ethanol | 2 l | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Ethenyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide | C(=C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H14N2O2S
